US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-5-methyl-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (P57)
The title compound was prepared from 1-(2-isopropyl-5-methylphenyl)thiourea, 3-(4-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C34a), and methyl 2-brompropanoate and isolated as a clear sticky oil (0.192 g, 49%).

reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
reactant | 3-(4-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | methyl 2-brompropanoate | BrC(C(=O)OC)C | C4H7BrO2
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-5-methyl-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SC(C1=O)C)=N/C(=O)NCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C32H31F3N6O3S
